Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
Mr. ___ is a ___ Yo M w/ history of primary hypothyroidism and 
hypercholesterolemia who presented to the ED with chest pain 
that has been intermittent over the summer. 

Pt states he was running around a baseball diamond with his 
children when he felt a "searing" pain in his chest that 
radiates down his bilateral arms around a month ago. He reports 
that ever since he has felt the same intermittent CP, that is 
worse with exertion. This pain is substernal, described as 
"burning" or "squeezing", rated as high as an 8, alleviated by 
rest. The pain is not reproducible by palpation. These episodes 
last a few minutes and have been increasing in frequency. They 
are not accompanied by diaphoresis or dyspnea. These episodes 
have been recently occurring at rest.   

For the past 2 nights pt has woken up with the pain with 
radiation down his L arm. 

He states that a couple years ago his PCP noted an abnormal EKG, 
so pt had a stress test that was irregular. From there he had a 
stress echo which per report was unremarkable.  Of note he 
occasionally suffers from reflux but his current chest pain is 
different from pain from his reflux. 

Pt denies recent travel. Pt denies diaphoresis, nausea, 
difficulty breathing, cough, abd pain, leg pain, leg swelling, 
dysuria, hematuria, and any other sxs at this time.

In the ED initial vitals were: T 98.4 HR 79 BP 149/98 RR 18 SPo2 
98% on RA
EKG: NSR  
Labs/studies notable for: Trop 0.06 
Patient was given: Aspirin 324mg, heparin drip 

On the floor patient appears well but anxious.  He denies chest 
pain, shortness of breath, paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, palpitations, syncope, or presyncope. He 
was started on a heparin drip as well as metoprolol 12.5 Q6H, 
atorvastatin 80mg, ASA 325. He was made NPO in preparation for 
cath tomorrow.   

 
Past Medical History:
primary hypothyroidism/hypercholesterolemia
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  

 
Physical Exam:
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with no JVD  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
Admission Labs

___ 07:40PM   CK-MB-3 cTropnT-0.08*
___ 07:40PM   ___ PTT-74.0* ___
___ 10:40AM   GLUCOSE-91 UREA N-17 CREAT-1.1 SODIUM-141 
POTASSIUM-5.5* CHLORIDE-103 TOTAL CO2-26 ANION GAP-12
___ 10:40AM   estGFR-Using this
___ 10:40AM   CK(CPK)-149
___ 10:40AM   cTropnT-0.06*
___ 10:40AM   CK-MB-5
___ 10:40AM   WBC-5.5 RBC-4.91 HGB-15.6 HCT-45.9 MCV-94 
MCH-31.8 MCHC-34.0 RDW-12.5 RDWSD-42.6
___ 10:40AM   NEUTS-50.8 ___ MONOS-9.7 EOS-1.3 
BASOS-0.4 IM ___ AbsNeut-2.77 AbsLymp-2.04 AbsMono-0.53 
AbsEos-0.07 AbsBaso-0.02
___ 10:40AM   PLT COUNT-229

Discharge Labs

___ 11:10AM BLOOD WBC-6.1 RBC-4.65 Hgb-14.3 Hct-43.0 MCV-93 
MCH-30.8 MCHC-33.3 RDW-12.4 RDWSD-42.2 Plt ___
___ 11:10AM BLOOD Plt ___
___ 11:10AM BLOOD Glucose-115* UreaN-15 Creat-1.1 Na-143 
K-4.5 Cl-103 HCO3-26 AnGap-14
___ 05:45AM BLOOD CK-MB-3 cTropnT-0.09*
___ 11:10AM BLOOD Calcium-9.9 Phos-3.4 Mg-2.1

Imaging

Dominance: Right
* Left Main Coronary Artery
The LMCA is normal and non obstructive
* Left Anterior Descending
The LAD has serial proximal stenoses, 99% and 85% in series, the 
distal LAD appears to suppply a
significant portion of the R-PDA
The ___ Diagonal is does not have ostial disease
* Circumflex
The Circumflex is moderate in size and overall non obstructive
The ___ Marginal is non obstructive
* Right Coronary Artery
The RCA is small in caliber and is non dominant

Cath ___
Interventional Details
A ___ XB LAD 3.5 guide provided adequate support
ASA, Clopidogrel and Heparin were used for thromboprophylaxis
The lesion(s) in the proximal LAD were crossed with a Prowater 
wire into the distal vessel with relative
ease
___ dilation was performed with a 2.5 balloon
A 3.0 x 22 Onyx drug eluting stent was deployed across the 
lesion and post dilated with a 3.25 NC
balloon at 22 ATM distally and 24 ATM proximally
Final angiography revealed no evidence of dissection, 
embolization or thrombus. There was TIMI III flow
in the distal vessel.
The second diagonal was slightly pinched but with intact distal 
flow.
The patient left the lab pain free and hemodynamically stable
Impressions:
1. Severe ostial/proximal LAD disease
2. Successful PCI of the proximal LAD with with a 3 x 22 DES 
(Onyx), posted with a 32.5 balloon up to 24
 
Brief Hospital Course:
HOSPITAL COURSE
===============
Mr. ___ is a ___ Yo M w/ history of primary hypothyroidism and 
hypercholesterolemia who presented to the ED with CP that has 
been intermittent over the past month. He was taken to the cath 
lab which demonstrated a 99% proximal LAD lesion, stented with 
___ 1.

ACTIVE ISSUES
=============
# CAD
# NSTEMI
Patient presented with exertional anginal chest pain of 1 month 
duration, which was beginning to occur at rest as well. Notably, 
prior stress EKG test in ___ demonstrated ___epression in leads V4-V6, II, III; it was positive for 
ischemia. He reports a follow-up stress echo which was negative, 
and he had no further cardiac workup. No EKG changes during 
admission, and trop was mildly elevated to peak of 0.09 prior to 
cath. He was placed on a heparin drip and started on ASA 325mg 
daily until cath. Cath on ___ showed a hazy, 99% proximal 
LAD lesion, stented with ___ 1. Asymptomatic afterwards, 
discharged on aspirin, statin, Plavix, metoprolol. He refused 
follow-up with ___ cardiology and plans to change his primary 
care physician outside the ___ system. Thus, he will be 
referred to ___ for cardiology follow-up.

CHRONIC ISSUES
==============
# Hypothyroidism
Continued levothyroxine 150mcg daily.

# Hyperlipidemia 
Started atorvastatin 80mg QDAY.

TRANSITIONAL ISSUES
===================
[] The cardiology department is working on an appointment, will 
call patient with more information within 48 hours; will call 
___ to book directly if does not hear

# NEW MEDS
- Aspirin 81 mg PO/NG DAILY 
- Atorvastatin 80 mg PO/NG QPM 
- Clopidogrel 75 mg PO/NG DAILY to prevent stent thrombosis 
- Metoprolol Succinate XL 50 mg PO DAILY 

Discharge weight: 178.1lb
Discharge creatinine: 1.1
Code status: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 150 mcg PO DAILY 
2. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
5.  Fish Oil (Omega 3) unknown  PO DAILY  
6.  Levothyroxine Sodium 150 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
You were in the hospital because you were experiencing chest 
pain

WHAT HAPPENED IN THE HOSPITAL?
==============================
While in the hospital we performed a cardiac catheterization 
where we were able to visualize the blood vessels in your heart 
in an effort to localize any narrowed vessels. One of the main 
vessels was very narrow, and we placed a stent to keep it open.

WHAT SHOULD I DO WHEN I GO HOME?
================================
Please continue to take your medications as prescribed and 
attend any follow up appointments scheduled for you.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___